US07816357B2
Preparation of 8-(4-chlorophenyl)-7-(pyridin-4-yl)-[1,2,4]triazolo[4,3-b]pyridazine-3,6(2H,5H)-dione
To the solution of 6-Chloro-8-(4-chlorophenyl)-7-(pyridin-4-yl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one (29 mg, 0.081 mmol), prepared as described in Example 9, in THF (3 ml) was added potassium trimethylsilyloxide, TMSOK, (36 mg, 0.28 mmol). The solution was heated to refluxed for 15 min. After this time, the solution was cooled to RT. The reaction mixture was concentrated under reduced pressure. The crude material was purified by reverse phase HPLC to give the title compound, 8-(4-chlorophenyl)-7-(pyridin-4-yl)-[1,2,4]triazolo[4,3-b]pyridazine-3,6(2H,5H)-dione, (12 mg, 32%) as a yellow solid.

reactant | 6-Chloro-8-(4-chlorophenyl)-7-(pyridin-4-yl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one | 0.081 mmol, 29 mg | ClC=1C(=C(C=2N(N1)C(NN2)=O)C2=CC=C(C=C2)Cl)C2=CC=NC=C2 | C16H9Cl2N5O
reactant | potassium trimethylsilyloxide | C[Si](C)(C)O[Si](C)(C)C.[K]
reactant | TMSOK | 0.28 mmol, 36 mg | [Si](C)(C)(C)O[K]
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | 8-(4-chlorophenyl)-7-(pyridin-4-yl)-[1,2,4]triazolo[4,3-b]pyridazine-3,6(2H,5H)-dione | 12 mg, 32% | ClC1=CC=C(C=C1)C=1C=2N(NC(C1C1=CC=NC=C1)=O)C(NN2)=O | C16H10ClN5O2
